US05521177
4'-[[2-Ethyl-4-methyl-6-(3,3-dimethyl-2-cyano-1-methyl-guanidino) -1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylic acid
Prepared analogously to Example 1d from methyl 4'-[[2-ethyl-4-methyl-6-(3,3-dimethyl-2-cyano-1-methyl-guanidino) -1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylate and 2N sodium hydroxide solution in ethanol.

reactant | methyl 4'-[[2-ethyl-4-methyl-6-(3,3-dimethyl-2-cyano-1-methyl-guanidino) -1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylate | C(C)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC)C=C(C=C2C)N(C(=NC#N)N(C)C)C | C30H32N6O2
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 4'-[[2-Ethyl-4-methyl-6-(3,3-dimethyl-2-cyano-1-methyl-guanidino) -1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylic acid | C(C)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=C(C=C2C)N(C(=NC#N)N(C)C)C | C29H30N6O2
